US04054591
[3-Amino-2-Cyanophenylamino]Oxoacetic Acid Ethyl Ester
The title compound is prepared by reduction of [3-nitro-2-cyanophenylamino]oxoacetic acid ethyl ester with 10% Pd. on charcoal and with cyclohexene in ethanol according to the procedure of I. D. Entwistle and R. A. W. Johnstone, J. Chem. Soc., Perkin I. 1300 (1975). The crude product is chromatographed on silica gel with chloroform and recrystallized from ethanol, m.p. 133°-136° C.

reactant | [3-nitro-2-cyanophenylamino]oxoacetic acid ethyl ester | C(C)OC(C(=O)NC1=C(C(=CC=C1)[N+](=O)[O-])C#N)=O | C11H9N3O5
reactant | cyclohexene | C1=CCCCC1 | C6H10
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd | [Pd] | Pd
product | [3-Amino-2-Cyanophenylamino]Oxoacetic Acid Ethyl Ester | C(C)OC(C(=O)NC1=C(C(=CC=C1)N)C#N)=O | C11H11N3O3
